US08686002B2
3-[2-(Trifluoromethoxy)benzyl]quinolin-2-amine
The title compound was synthesized according to EXAMPLE 11 from 2-aminobenzaldehyde and 3-(2-trifluoromethoxyphenyl)propionitrile.

reactant | 2-aminobenzaldehyde | NC1=C(C=O)C=CC=C1 | C7H7NO
reactant | 3-(2-trifluoromethoxyphenyl)propionitrile | FC(OC1=C(C=CC=C1)CCC#N)(F)F | C10H8F3NO
product | 3-[2-(Trifluoromethoxy)benzyl]quinolin-2-amine | FC(OC1=C(CC=2C(=NC3=CC=CC=C3C2)N)C=CC=C1)(F)F | C17H13F3N2O
